US05081287
To a stirred solution of 5.0 grams (0.020 mole) of 3-ethoxy-4-oxahexyl benzoate in 100 ml of tetrahydrofuran was added 100 ml of aqueous 5% hydrochloric acid. The reaction mixture was stirred at ambient temperature for three hours, and then it was poured into 100 ml of water. The mixture was extracted with two 100 ml portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure yielding 1.9 grams of 3-oxopropyl benzoate. The nmr spectrum was consistent with the proposed structure.

reactant | 3-ethoxy-4-oxahexyl benzoate | 0.020 mole, 5.0 grams | C(C1=CC=CC=C1)(=O)OCCC(OCC)OCC | C14H20O4
reactant | hydrochloric acid | Cl | ClH
reactant | water | 100 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 3-oxopropyl benzoate | 1.9 grams | C(C1=CC=CC=C1)(=O)OCCC=O | C10H10O3
